US08975398B2
4-(1-isobutyl-1H-pyrazol-4-yl)aniline
A suspension of 4-bromoaniline (406 mg, 2.362 mmol), 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (650 mg, 2.60 mmol), PdCl2(dppf)-dichloromethane adduct (57.9 mg, 0.071 mmol) and sodium carbonate (526 mg, 4.96 mmol) in a 6:2:1 mixture of tetrahydrofuran/methanol/water (12 ml) was taken through three vacuum/nitrogen purge cycles; and the reaction mixture was heated in an oil bath at 85° C. overnight. The mixture was diluted with ethyl acetate and water; the separated aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine, dried with magnesium sulfate, filtered and concentrated. The residue was purified by normal phase chromatography to give the title compound.

reactant | 4-bromoaniline | 2.362 mmol, 406 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.60 mmol, 650 mg | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | sodium carbonate | 4.96 mmol, 526 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(dppf) dichloromethane | 0.071 mmol, 57.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | tetrahydrofuran methanol water | 12 ml | O1CCCC1.CO.O
product | 4-(1-isobutyl-1H-pyrazol-4-yl)aniline | C(C(C)C)N1N=CC(=C1)C1=CC=C(N)C=C1 | C13H17N3
